US06291448B1
A solution of allyl (1S,5R,6S)-6-[1(R)-allyloxycarbonyloxy-ethyl]-2-hydroxymethyl-1-methyl-carbapen-2-em-3-carboxylate (60 mg, 0.164 mmol), 1-methyl-1,3-dihydro-2-thia-1,3-diaza-cyclopenta[b]naphthalene 2,2-dioxide (42 mg, 0.180 mmol), and triphenylphosphine (65 mg, 0.246 mmol) in anhydrous tetrahydrofuran (1 mL) was cooled in an ice bath and treated with diisopropyl azodicarboxylate (0.049 mL, 0.246 mmol). The mixture was stirred at 0-5° C. for 30 minutes, then streaked onto two 1 mm ×20 cm×20 cm silica gel GF plates. The plates were developed with 5% ethyl acetate in dichloromethane. The product band was removed and eluted with ethyl acetate to afford allyl (1S,5R,6S)-6-[1(R)-allyloxycarbonyloxy-ethyl]-1-methyl-2-(3-methyl-2,2-dioxo-2,3-dihydro-2-thia-1,3-diaza-cyclopenta[b]naphthalen-1-yl-methyl)-carbapen-2-em-3-carboxylate (52 mg) as an oil.

reactant | allyl (1S,5R,6S)-6-[1(R)-allyloxycarbonyloxy-ethyl]-2-hydroxymethyl-1-methyl-carbapen-2-em-3-carboxylate | 0.164 mmol, 60 mg | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CO)C(=O)OCC=C)C1=O | C18H23NO7
reactant | 1-methyl-1,3-dihydro-2-thia-1,3-diaza-cyclopenta[b]naphthalene 2,2-dioxide | 0.180 mmol, 42 mg | CN1S(NC=2C1=CC1=CC=CC=C1C2)(=O)=O | C11H10N2O2S
reactant | triphenylphosphine | 0.246 mmol, 65 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.246 mmol, 0.049 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | allyl (1S,5R,6S)-6-[1(R)-allyloxycarbonyloxy-ethyl]-1-methyl-2-(3-methyl-2,2-dioxo-2,3-dihydro-2-thia-1,3-diaza-cyclopenta[b]naphthalen-1-yl-methyl)-carbapen-2-em-3-carboxylate | 52 mg | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CN2S(N(C=3C2=CC2=CC=CC=C2C3)C)(=O)=O)C(=O)OCC=C)C1=O | C29H31N3O8S
